US04882350
1-(4-methoxybenzyl)-2-oxo-5-ethoxy-pyrrolidine.
To a mixture of 2.25 g of 5-ethoxy-pyrrolidin-2-one, 1.23 g of hydrated potassium hydroxide and 0.2 g of tetra-n-butylammonium bromide in 45 cm3 of tetrahydrofuran, there is added, without exceeding 30° C., a solution of 3.5 g of 4-methoxybenzyl bromide in 15 cm3 of tetrahydrofuran. After agitating for 1 hour at ambient temperature, filtering and evaporating the solvent under reduced pressure, the residue is taken up with water and extracted with ethyl acetate. The extracts are dried and the solvent is evaporated under reduced pressure. The residue is distilled at 245° C. under 0.2 mbar. 3.10 g of the expected product is obtained.

reactant | 5-ethoxy-pyrrolidin-2-one | 2.25 g | C(C)OC1CCC(N1)=O | C6H11NO2
reactant | 4-methoxybenzyl bromide | 3.5 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
catalyst | tetra-n-butylammonium bromide | 0.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 45 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 1-(4-methoxybenzyl)-2-oxo-5-ethoxy-pyrrolidine | 3.10 g | COC1=CC=C(CN2C(CCC2OCC)=O)C=C1 | C14H19NO3
